US07622583B2
5-Chloro-2-(4-fluoro-phenoxy)-3-nitro-pyridine
The title compound was prepared according to general procedure A using 2-bromo-5-chloro-3-nitro-pyridine (750 mg, 3.17 mmol), 4-fluorophenol (463 mmol, 4.13 mmol), K2CO3 (437 mg, 4.75 mmol) and DMF (5 mL). MS m/z: 269.0 (M+H).

reactant | 2-bromo-5-chloro-3-nitro-pyridine | 3.17 mmol, 750 mg | BrC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | 4-fluorophenol | 463 mmol | FC1=CC=C(C=C1)O | C6H5FO
reactant | K2CO3 | 4.75 mmol, 437 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-2-(4-fluoro-phenoxy)-3-nitro-pyridine | ClC=1C=C(C(=NC1)OC1=CC=C(C=C1)F)[N+](=O)[O-] | C11H6ClFN2O3
